US07863291B2
Step A: N-(6-Methoxybenzo[d]thiazol-2-yl)-1H-imidazole-1-carbothioamide
To 6-methoxybenzo[d]thiazol-2-amine (0.53 g, 2.94 mmol) in acetonitrile (20 mL) was added 1,1′-thiocarbonyldiimidazole (0.681 g, 3.82 mmol). The reaction mixture was stirred at 65° C. for 24 hours. The precipitate was filtered and washed with acetonitrile (2×20 mL) to yield the product. The product was taken directly to the next step without any further purification or characterization.

reactant | 6-methoxybenzo[d]thiazol-2-amine | 2.94 mmol, 0.53 g | COC1=CC2=C(N=C(S2)N)C=C1 | C8H8N2OS
reactant | 1,1′-thiocarbonyldiimidazole | 3.82 mmol, 0.681 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | N-(6-Methoxybenzo[d]thiazol-2-yl)-1H-imidazole-1-carbothioamide | COC1=CC2=C(N=C(S2)NC(=S)N2C=NC=C2)C=C1 | C12H10N4OS2
